US07129238B2
(RS)-(2-Fluoro-4-hydroxy-phenyl)-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure C to give (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-4-hydroxy-phenyl)-2-methoxy-acetamide. White solid. MS 315.1 ([M+H]+)

reactant | (RS)-(2-Fluoro-4-hydroxy-phenyl)-methoxy-acetic acid | FC1=C(C=CC(=C1)O)C(C(=O)O)OC | C9H9FO4
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-4-hydroxy-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=C(C=C(C=C2)O)F)=O)C=C1 | C17H15FN2O3
